US08334292B1
Step 5: Preparation of methyl 4-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)piperidine-1-carboxylate
Using the procedure of Example 1 Step 5, 4-((piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine was reacted with methyl chloroformate to provide the title compound. 1H NMR (CDCl3, 400 MHz) 8.07 (s, 1H), 7.37 (d, 2H), 6.93 (d, 2H), 5.19 (sb, 1H), 4.19 (d, 2H), 4.07 (m, 3H), 3.88 (m, 4H), 3.69 (s, 3H), 3.20 (m, 4H), 2.77 (m, 2H), 1.97-1.57 (m, 11H), 1.26 (m, 3H), 0.94 (d, 3H); MS (ESI) m/z: Calc: 523.3 (M+). Found. 524.3 (M+1).

reactant | 4-((piperidin-4-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | N1CCC(CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C27H39N5O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | methyl 4-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)piperidine-1-carboxylate | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CCN(CC1)C(=O)OC)C1=CC=C(C=C1)N1CCOCC1 | C29H41N5O4
